US06770667B1
A suspension of N-(1-methyl-2-oxo-propyl)-N-(3-nitrophenyl)formamide (1.17 g), ammonium acetate (3.82 g) and acetic acid (1 ml) in xylene (20 ml) was refluxed for 2 hours. After adding ethyl acetate and an aqueous solution of sodium hydroxide (1N, 100 ml), the mixture was stirred for 10 minutes. The separated aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified with a silica gel column chromatography eluting with 1-3% unethanol/dichloromethane to give 4,5-dimethyl-1-(3-nitrophenyl)imidazole (0.79 g, 73.1%).

reactant | N-(1-methyl-2-oxo-propyl)-N-(3-nitrophenyl)formamide | 1.17 g | CC(C(C)=O)N(C=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H12N2O4
reactant | ammonium acetate | 3.82 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4,5-dimethyl-1-(3-nitrophenyl)imidazole | 0.79 g, 73.1% | CC=1N=CN(C1C)C1=CC(=CC=C1)[N+](=O)[O-] | C11H11N3O2
